US05095038
A solution of lithium hydroxide monohydrate (150 mg) in water (4 ml) was added to a solution of methyl 4-(7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl)-3-methoxybenzoate (310 mg) in 1:1 methanol:tetrahydrofuran (15 ml). The mixture was stirred for 18 h. After most of the solvent was evaporated, water (7 ml) was added. The mixture was acidified with 1N hydrochloric acid and the precipitate was filtered, triturated with 25 ml of 10:1 ether:methanol, ground to a powder and vacuum dried at 100° C for 12 h to give 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoic acid (221 mg, 74%) as a colorless solid; mp 198.0°-199.0° C.

reactant | lithium hydroxide monohydrate | 150 mg | O.[OH-].[Li+]
reactant | methyl 4-(7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl)-3-methoxybenzoate | 310 mg | C(C)C(CNC(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CC | C27H31NO4
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoic acid | 221 mg, 74% | C(C)C(CNC(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC)CC | C26H29NO4
